US07361663B2
A. 6-Bromomethyl-4-chloro-quinazoline
A flask containing 4-Chloro-6-methylquinazoline (0.91 g, 5.09 mmol), NBS (0.95 g, 5.35 mmol), benzoyl peroxide 70% (0.09 g, 0.2545 mmol) and carbon tetrachloride (25 mL) is refluxed at 80° C. for 20 h. The solution is cooled to RT, filtered and concentrated. Purification by flash chromatography (7.5% EtOAc/hexanes) yields the title compound as a white solid (0.62 g, 2.42 mmol). 1H NMR (CDCl3, 300 MHz) 9.06(s, 1H), 8.25(s, 1H), 8.07(d, 1H), 8.00(d, 1H), 4.67(s, 2H).

reactant | 4-Chloro-6-methylquinazoline | 5.09 mmol, 0.91 g | ClC1=NC=NC2=CC=C(C=C12)C | C9H7ClN2
reactant | NBS | 5.35 mmol, 0.95 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.2545 mmol, 0.09 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Bromomethyl-4-chloro-quinazoline | 2.42 mmol, 0.62 g | BrCC=1C=C2C(=NC=NC2=CC1)Cl | C9H6BrClN2
